US05594021
N-(4-chloro-3-methyl-5-isoxazolyl)-2-(4-dimethylaminobenzyl)benzo[b]thiophene-3-sulfonamide was prepared by the method of Example 41 with 4-chloro-3-methyl-5-aminoisoxazole (0.52 mmoles, 69 mg), NaH (1.3 mmoles, 31 mg), 2-(4-dimethylaminobenzyl)-benzo[b]thiophene-3-sulfonylchloride (0.58 mmoles, 0.21g) and THF (4 ml). Flash chromatography (5% methanol/chloroform) provided 0.16 g (66%) of a yellow gummy solid, m.p. 105°-110° C.

reactant | 4-chloro-3-methyl-5-aminoisoxazole | 0.52 mmoles, 69 mg | ClC=1C(=NOC1N)C | C4H5ClN2O
reactant | NaH | 1.3 mmoles, 31 mg | [H-].[Na+]
reactant | 2-(4-dimethylaminobenzyl)-benzo[b]thiophene-3-sulfonylchloride | 0.58 mmoles, 0.21g | CN(C1=CC=C(CC2=C(C3=C(S2)C=CC=C3)S(=O)(=O)Cl)C=C1)C | C17H16ClNO2S2
reactant | THF | 4 ml | C1CCOC1 | C4H8O
solvent | methanol chloroform | CO.C(Cl)(Cl)Cl
product | N-(4-chloro-3-methyl-5-isoxazolyl)-2-(4-dimethylaminobenzyl)benzo[b]thiophene-3-sulfonamide | ClC=1C(=NOC1NS(=O)(=O)C=1C2=C(SC1CC1=CC=C(C=C1)N(C)C)C=CC=C2)C | C21H20ClN3O3S2
